US07381840B2
Next, to a mixture of tert-butyl (7-hydroxy-1-naphthyl)carbamate (64.0 g, 247 mmol) and cesium carbonate (161 g, 493 mmol) in 300 mL anhydrous DMF was added iodoethane (42.3 g, 272 mmol) at room temperature. The mixture was stirred at 60° C. for 2 hours. Water was added to the mixture, and the product was extracted with ethylacetate. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. To the obtained residue was added diisopropyl ether and the precipitate was collected and dried to afford tert-butyl (7-ethoxy-1-naphthyl)carbamate (47.9 g, 67.5% yield).

reactant | tert-butyl (7-hydroxy-1-naphthyl)carbamate | 247 mmol, 64.0 g | OC1=CC=C2C=CC=C(C2=C1)NC(OC(C)(C)C)=O | C15H17NO3
reactant | cesium carbonate | 493 mmol, 161 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 272 mmol, 42.3 g | ICC | C2H5I
reactant | Water | O | H2O
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | tert-butyl (7-ethoxy-1-naphthyl)carbamate | 47.9 g, 67.5% yield | C(C)OC1=CC=C2C=CC=C(C2=C1)NC(OC(C)(C)C)=O | C17H21NO3
